US05659036
8.9 Parts of 2,5-di(p-chloroanilino)-3,6-dihydroterephthalic acid dimethyl ester, 50 parts of ethanol, 5.37 parts of KOH, 24.35 parts of water and 6 parts of sodium m-nitrobenzenesulfonate were charged into a 200-ml flask of stainless steel, and refluxed with stirring for 10 hours. When the suspension changed to a black solution, ethanol was steam-distilled, and the reaction mixture was filtered to remove a solid. The remaining solution was heated up to 80° C. with stirring, and after 35 parts of a 10% hydrochloric acid aqueous solution was dropwise added, the mixture was maintained for 1 hour. Then, the mixture was filtered, washed with hot water and dried to give 8.21 parts (98.4% of the theoretical yield) of 2,5-di(p-chloroanilino)terephthalic acid.

reactant | 2,5-di(p-chloroanilino)-3,6-dihydroterephthalic acid dimethyl ester | COC(C1=C(CC(C(=O)OC)=C(C1)NC1=CC=C(C=C1)Cl)NC1=CC=C(C=C1)Cl)=O | C22H20Cl2N2O4
reactant | KOH | [OH-].[K+]
reactant | sodium m-nitrobenzenesulfonate | [N+](=O)([O-])C=1C=C(C=CC1)S(=O)(=O)[O-].[Na+]
solvent | ethanol | C(C)O | C2H6O
solvent | water | O | H2O
product | 2,5-di(p-chloroanilino)terephthalic acid | ClC1=CC=C(NC2=C(C(=O)O)C=C(C(=C2)C(=O)O)NC2=CC=C(C=C2)Cl)C=C1 | C20H14Cl2N2O4
